* Z:\mnt\design.r\spice\examples\1171.asc
L1 IN N001 50µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS360
C1 OUT 0 100µ Rser=0.05
V1 IN 0 5
XU1 N003 N002 0 N001 IN LT1171
R1 N002 0 1.24K
C3 N004 0 1µ
R2 N004 N003 1K
R3 OUT N002 12.7K
Rload OUT 0 12
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 50m startup
.lib LT1171.sub
.backanno
.end
